US05011849
3.6 g (19.1 mmol) of 5-phenyl-4-oxazolecarboxylic acid were added portionwise to a suspension of 3.1 g (19.1 mmol) of 1,1'-carbonyldiimidazole in 20 ml of dry tetrahydro-furan, whereby a brown solution formed with o the evolution of gas. After a reaction period of 15 minutes at 20° 3.05 g (19.0 mmol) of t-butyl (2-aminoethyl)carbamate in 10 ml of dry tetrahydrofuran were added dropwise (slight warming) and the reaction mixture was stirred for a further 30 minutes. Thereafter, the reaction mixture was evaporated under reduced pressure and the residue was partitioned between methylene chloride and 0.1 N hydrochloric acid. After washing neutral with saturated sodium chloride solution the organic phase was dried over magnesium sulfate and evaporated, whereby there were obtained 5.8 g (92%) of t-butyl [2-(5-phenyl-4-oxazole- carboxamido)ethyl]- carbamate which were stirred at 20° for 20 minutes in 20 ml of trifluoroacetic acid. Thereafter, the reaction mixture was evaporated under reduced pressure. The residue was dissolved in 5 ml of methanol and treated with 10 ml of 5.5 N hydrogen chloride in methanol. Filtration of the separated crystals yielded 2.4 g (51%) of N-(2-aminoethyl)-5-phenyl-4-oxazole- carboxamide hydrochloride as white crystals, melting point 257° (dec.). The 5-phenyl-4-oxazolecarboxylic acid used as the starting material was prepared as follows: Analogously to the method described in Tetrahedron Letters, 23, 235-236 (1982), from ethyl isocyanoacetate, benzoic acid, phosphoric acid diphenyl ester azide and potassium carbonate in dimethylformamide/water there was prepared ethyl 5-phenyl-4-oxazolecarboxylate which was then converted into the desired acid likewise according to known methods by hydrolysis with 2N sodium hydroxide solution at 50° during 15 minutes.

reactant | 5-phenyl-4-oxazolecarboxylic acid | 19.1 mmol, 3.6 g | C1(=CC=CC=C1)C1=C(N=CO1)C(=O)O | C10H7NO3
reactant | 1,1'-carbonyldiimidazole | 19.1 mmol, 3.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | t-butyl (2-aminoethyl)carbamate | 19.0 mmol, 3.05 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
solvent | tetrahydro-furan | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | t-butyl [2-(5-phenyl-4-oxazole- carboxamido)ethyl]- carbamate | 5.8 g, 92% | C1(=CC=CC=C1)C1=C(N=CO1)C(=O)NCCNC(OC(C)(C)C)=O | C17H21N3O4
